US09359359B2
To a solution of 3-methyl-1-(2-(2-(tetrahydro-2H-pyran-2-yloxy)ethoxy)ethyl)-8-(3-(trifluoromethoxy)phenoxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-1H-purine-2,6(3H,7H)-dione (0.64 g, 1.16 mmol,) in ethanol (15 mL) was added HCl (3 mL); then it was refluxed overnight. The solvent was concentrated to give a crude product which was purified by a column chromatography to give 1-(2-(2-hydroxyethoxy)ethyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione (420 mg, 84% yield) as a white solid. LCMS retention time 1.209 min, LCMS MH+ 431.

reactant | 3-methyl-1-(2-(2-(tetrahydro-2H-pyran-2-yloxy)ethoxy)ethyl)-8-(3-(trifluoromethoxy)phenoxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-1H-purine-2,6(3H,7H)-dione | 1.16 mmol, 0.64 g | CN1C(N(C(C=2N(C(=NC12)OC1=CC(=CC=C1)OC(F)(F)F)COCC[Si](C)(C)C)=O)CCOCCOC1OCCCC1)=O | C28H39F3N4O8Si
reactant | HCl | 3 mL | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 1-(2-(2-hydroxyethoxy)ethyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione | 420 mg, 84% yield | OCCOCCN1C(N(C=2N=C(NC2C1=O)OC1=CC(=CC=C1)OC(F)(F)F)C)=O | C17H17F3N4O6
